US08309725B2
Preparation of 1-[(4aRS,8SR,8aRS)-4-benzoyl-8-(pyrrolidin-1-yl)-perhydroquinoxalin-1-yl]-2-(3,4-dichlorophenyl)ethan-1-one
Under N2, 2-(3,4-dichlorophenyl)-1-[(4aRS,8SR,8aRS)-8-(pyrrolidin-1-yl)-perhydroquinoxalin-1-yl]-ethan-1-one (111 mg, 0.28 mmol) was dissolved in absolute CH2Cl2 (14 ml) and benzoyl chloride (47 mg, 0.35 mmol) was added dropwise. The mixture was stirred at room temperature overnight and then evaporated in vacuo. The residue was purified by flash chromatography (Ø 2 cm, CH2Cl2/MeOH/NH3 9.5:0.5:0.05, l=15 cm, V=5 ml) and was obtained as a yellowish resin.

reactant | 2-(3,4-dichlorophenyl)-1-[(4aRS,8SR,8aRS)-8-(pyrrolidin-1-yl)-perhydroquinoxalin-1-yl]-ethan-1-one | 0.28 mmol, 111 mg | ClC=1C=C(C=CC1Cl)CC(=O)N1CCNC2CCCC(C12)N1CCCC1 | C20H27Cl2N3O
reactant | benzoyl chloride | 0.35 mmol, 47 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | CH2Cl2 | 14 ml | C(Cl)Cl | CH2Cl2
product | 1-[(4aRS,8SR,8aRS)-4-benzoyl-8-(pyrrolidin-1-yl)-perhydroquinoxalin-1-yl]-2-(3,4-dichlorophenyl)ethan-1-one | C(C1=CC=CC=C1)(=O)N1CCN(C2C(CCCC12)N1CCCC1)C(CC1=CC(=C(C=C1)Cl)Cl)=O | C27H31Cl2N3O2
